US05116836
175.3 g (1 mol) of ethyl thiomorpholine-3-carboxylate are dissolved in 1000 ml of abs. THF, 140 ml (1 mol) of triethylamine are added and 198.5 g (1 mol) of mesitylene acetyl chloride are added dropwise at 0° to 10° C. The mixture is subsequently stirred at room temperature for a further 1 h and poured into 4.5 1 of ice water and 500 ml of 1 N HCl, and a flocculant, strongly water-containing product is filtered off with suction, taken up in methylene chloride, dried using MgSO4 and concentrated on a rotary evaporator. In this manner, 317.2 g (=94.7% of theory) of ethyl N-(2,4,6-trimethylphenyl-acetyl)-thiomorpholine-3-carboxylate are obtained as a pale yellow oil.

reactant | ethyl thiomorpholine-3-carboxylate | 1 mol, 175.3 g | N1C(CSCC1)C(=O)OCC | C7H13NO2S
reactant | triethylamine | 1 mol, 140 ml | C(C)N(CC)CC | C6H15N
reactant | mesitylene acetyl chloride | 1 mol, 198.5 g | C1(=C(C(=CC(=C1)C)C)CC(=O)Cl)C | C11H13ClO
reactant | HCl | 1 N, 500 ml | Cl | ClH
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | ethyl N-(2,4,6-trimethylphenyl-acetyl)-thiomorpholine-3-carboxylate | 317.2 g, 94.7% | CC1=C(C(=CC(=C1)C)C)CC(=O)N1C(CSCC1)C(=O)OCC | C18H25NO3S
